Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Percocet / Iodinated Contrast Media - IV Dye / Chantix
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
VATS vagotomy

 
History of Present Illness:
___ year old female with history of morbid obesity status post
Roux-en-Y gastric bypass in ___ at ___ now 
presenting
with epigastric pain, nausea secondary to exacerbation of her
known marginal ulcer diagnosed on EGD. She was recently admitted
to the bariatric surgery service on ___ and treated with IV 
PPI
and her home doses of carafate and misoprostol. CXR was negative
for free air during evaluation. Repeat EGD during her ___
admission showed a 2cm marginal ulcer with clot overlay treated
with cautery and biopsies were taken for pathology. Patient was
started on triple therapy for empiric therapy for H. pylori.
Patient recovered well and was discharged home on ___ on her
home medications, an oral PPI, and scheduled for a followup EGD
in ___ weeks. She now presents with worsening epigastric pain
despite her medical therapy. She denies any nausea, vomiting,
fever, hematochezia but endorses metallic taste on her mouth. 
She
has come to the ED for further evaluation and treatment.

 
Past Medical History:
PAst Medical History:
Bipolar Disorder
Anxiety
Depression
PTSD
Migraines
Hypothyroidism
Chronic Back Pain

Past Sugical History:
Total Abdominal Hysterectomy w/ BSO
Laparascopy x 4 for ovarian cyst removals
Tonsillectomy
Lap Cholecystectomy
Lap Appendectomy
Remote bladder surgeries when young

 
Social History:
___
Family History:
Mother - ___ Type ___, Hypertension
Father- ___ Cancer, CAD, hyperlipidemia
Sister- ___ disease NOS
Brother- ___
Son- ___
 
Physical Exam:
T98.9 P 68 BP92/54  RR 16  Sat 96% RA
NAD, c/o throat pain, stable
RRR
CTAB, no respiratory distress. Incision appears well, no 
erythema, no drainage
Abdomen soft, no rebound/guarding
Ext without edema, ambulating independently
 
Pertinent Results:
Admission labs
___ 01:10AM BLOOD WBC-9.3 RBC-4.55 Hgb-12.5 Hct-36.9 
MCV-81* MCH-27.5 MCHC-33.9 RDW-14.3 Plt ___
___ 01:10AM BLOOD Glucose-95 UreaN-16 Creat-0.6 Na-139 
K-3.9 Cl-101 HCO3-27 AnGap-15

Discharge labs
___ 06:15AM BLOOD WBC-10.5 RBC-4.20 Hgb-11.5* Hct-34.0* 
MCV-81* MCH-27.3 MCHC-33.7 RDW-14.0 Plt ___ admitted through the ED for worsening of her abdominal pain 
without nausea/vomiting. She was started on high dose IV PPI and 
continued on other home medications along with IV fluids. All 
nutrition labs drawn during this admission were within normal 
limits. Patient had an UGI which showed good flow without 
etravasation of contrast outside the lumen. Thoracic surgery was 
consulted for the possibility of a VATS vagotomy done on 
___. At time of discharge, pt was tolerating a stage 4 
bariatric diet, pain controlled w/ PO pain meds, continuing her 
carafate and misoprostol therapy as directed. She will follow up 
in bariatric and thoracic surgery clinics.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Misoprostol 100 mcg PO QIDPCHS 
3. Pantoprazole 40 mg PO Q12H 
4. Sucralfate 1 gm PO QID 
5. Amoxicillin 1000 mg PO Q12H 
6. Clarithromycin 500 mg PO Q12H 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
8. Multivitamins 1 TAB PO DAILY 
9. Lorazepam 1 mg PO QHS:PRN insomnia 
10. Gabapentin 300 mg PO TID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H pain 
Do not take more than 3000mg of tylenol in 24 hours from all 
sources 
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
3. Levothyroxine Sodium 100 mcg PO DAILY 
take one hour prior to taking sucralfate 
4. Lorazepam 1 mg PO QHS:PRN insomnia 
5. Misoprostol 100 mcg PO QIDPCHS 
6. Sucralfate 1 gm PO QID 
7. Docusate Sodium 100 mg PO BID 
take while taking narcotic medications 
8. Gabapentin 300 mg PO TID 
9. Multivitamins 1 TAB PO BID 
10. Pantoprazole 40 mg PO Q12H 
11. Vitamin B-12 (cyanocobalamin (vitamin B-12)) 1,000 mcg 
sublingual daily 
12. Vitron-C (iron-vitamin C) 65 mg iron- 125 mg oral daily 
13. Vitamin D3 (cholecalciferol (vitamin D3)) 5,000 unit oral 
daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent marginal ulcer
Iron-deficiency anemia
Vitamin D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ management of your abdominal pain. 
Your pain is well-controlled, and you are tolerating a Bariatric 
Stage 4 diet. During your hospitalization, the thoracic surgery 
team performed an operation called a VATS vagotomy which can 
help reduce stomach acid secretion and help treat your recurrent 
ulcers. Please follow the instructions listed below during your 
recovery.

Bariatric surgery team discharge instructions:
- Please avoid all NSAIDs, including ibuprofun, naproxen, 
aspirin, or excederin migraine.
- Please take your pain medications as prescribed at discharge, 
utilizing a stool softener while using narcotic pain medications
- Please stop using any nicotine-containing products, including 
e-cigarettes or gums.
- Please stop consuming any alcohol.
- Take PPI one hour prior to taking carafate.

If you have persistent nausea/vomiting, worsening pain, or blood 

in the stool or black stool, or for any other questions or 
concerns, please call the office at ___. 

Thoracic surgery discharge instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___